US06867203B2
(2-Bromophenyl)[2-chloro-4-(E-((4-(2-oxo-2.3-dihydro-1H-benzimidazol-1-yl)piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzaldehyde, and 6-amino-1-hexanol with 4-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)piperidine. 1H NMR (DMSO-d6, 300 MHz) δ 8.14 (d, J=1.5 Hz, 1H), 7.80 (dd, J=7.9, 1.3 Hz, 1H), 7.67 (dd, J=8.1, 1.8 Hz, 1H), 7.48 (ap s, 2H), 7.44 (dt, J=7.5, 1.2, 1H), 7.34 (dt, J=7.6, 1.6, 1H), 7.26 (dd, J=7.7, 1.8 Hz, 1H), 7.22 (m, 1H), 7.06 (d, J=8.1, 1H), 6.97 (ap d, J=2.6, 3H), 4.64 (m, 1H), 4.48 (m, 2H), 2.79 (m, 2H), 2.29 (m, 2H), 1.78 (in, 2H). HRMS calculated for C27H23N3O2S1Br1Cl1: 568.0461. Observed: 568.0477.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-chloro-4-fluoro-benzaldehyde | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 4-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)piperidine | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
product | (2-Bromophenyl)[2-chloro-4-(E-((4-(2-oxo-2.3-dihydro-1H-benzimidazol-1-yl)piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)Cl | C27H23BrClN3O2S
